US08022222B2
Using the method of Example 3, Step B, 4-isopropylthiazol-2-amine (0.245 g, 1.72 mmol), 2-chloro-4-(2,6-dichlorophenylthio)pyridine (0.500 g, 1.72 mmol), potassium phosphate (0.402 g, 1.89 mmol), Pd2(dba)3 (0.079 g, 0.086 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.050 g, 0.086 mmol) were reacted to provide N-(4-(2,6-dichlorophenylthio)pyridin-2-yl)-4-isopropylthiazol-2-amine (0.260 g, 38% yield) as a white powder. 1H NMR (d6-DMSO) δ 11.07 (s, 1H), 8.10 (d, 1H), 7.76 (d, 2H), 7.64 (t, 1H), 6.57 (s, 1H), 6.56 (d, 1H), 6.51 (s, 1H), 2.82 (hextet, 1H), 1.18 (d, 6H).

reactant | 4-isopropylthiazol-2-amine | 1.72 mmol, 0.245 g | C(C)(C)C=1N=C(SC1)N | C6H10N2S
reactant | 2-chloro-4-(2,6-dichlorophenylthio)pyridine | 1.72 mmol, 0.500 g | ClC1=NC=CC(=C1)SC1=C(C=CC=C1Cl)Cl | C11H6Cl3NS
reactant | potassium phosphate | 1.89 mmol, 0.402 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.086 mmol, 0.050 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | Pd2(dba)3 | 0.086 mmol, 0.079 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(2,6-dichlorophenylthio)pyridin-2-yl)-4-isopropylthiazol-2-amine | 0.260 g, 38% yield | ClC1=C(C(=CC=C1)Cl)SC1=CC(=NC=C1)NC=1SC=C(N1)C(C)C | C17H15Cl2N3S2
